US05128448
A solution of pivaloyl chloride (3.57 g, 2.96 mmol) in THF (25 ml) was added to a cold (-78° C.) solution of 4-cyclohexylbutyric acid (5.042 g, 29.62 mmol) and triethyl amine (3.60 g, 35.6 mmol) in THF (100 mL). The resultant white suspension was stirred for 10 min. at -78° C. and then warmed to 0° C. and kept there for 30 min. The reaction mixture was recooled to -78° C. and a cold (-78° C.) metallated oxazolidinone solution in THF (125 ml) [prepared by the addition of n-BuLi (17.65 ml. of 1.65M solution in hexane, 28.2 mmol) to a -78° C. solution of (S)-4-(phenylmethyl)-2-oxazolidinone in THF (125 ml)] was added via a cannula under the positive pressure of argon. The reaction mixture was then warmed to 0° C. and kept there for another 30 min. The reaction was quenched by the addition of saturated NH4Cl (75 ml). The volatiles were removed on rotavapor at reduced pressure and the residue was extracted with CH2Cl2 (3×200 ml). The combined organic phases were washed with 1N NaOH (150 ml) and dried (Na2SO4). The organic layer was concentrated and the residue was purified by flash silica gel chromatography, eluting with hexane:ethyl acetate (3:1) to yield 8.066 g (85%) of (S)-3-(4-cyclohexyl-1-oxobutyl)-4-(phenylmethyl)-2-oxazolidinone: Rf 0.34 (3:1 hexane:ethyl acetate), m.p. 69°-70° C. [α]D25 +47.3° (c 0.97 CHCl3).

reactant | pivaloyl chloride | 2.96 mmol, 3.57 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 4-cyclohexylbutyric acid | 29.62 mmol, 5.042 g | C1(CCCCC1)CCCC(=O)O | C10H18O2
reactant | triethyl amine | 35.6 mmol, 3.60 g | C(C)N(CC)CC | C6H15N
reactant | oxazolidinone | O1C(NCC1)=O | C3H5NO2
reactant | n-BuLi | 28.2 mmol, 1.65M, 17.65 ml | [Li]CCCC
reactant | (S)-4-(phenylmethyl)-2-oxazolidinone | C1(=CC=CC=C1)C[C@@H]1NC(OC1)=O | C10H11NO2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 125 ml | C1CCOC1 | C4H8O
solvent | THF | 125 ml | C1CCOC1 | C4H8O
product | (S)-3-(4-cyclohexyl-1-oxobutyl)-4-(phenylmethyl)-2-oxazolidinone | 8.066 g, 85% | C1(CCCCC1)CCCC(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O | C20H27NO3
